US06720316B2
3-Methyl-4-piperidone hydrochloride (1.00 g, 6.68 mmol) was suspended in CH2Cl2 (50 mL) and stirred at room temperature under N2. Pyridine (1.35 mL, 16.7 mmol) was added to the reaction mixture followed by trifluoroacetic anhydride (1.13 mL, 8.02 mmol). The reaction mixture was stirred at room temperature for 1.5 hours. The reaction mixture was diluted with CH2Cl2 (50 mL) and washed with 5% aqueous NaHCO3 (1×25 mL), 10% citric acid (1×25 mL) and water (1×25 mL). The organic phase was dried over Na2SO4, filtered and concentrated to yield 1-trifluoroacetyl-3-methylpiperidin-4-one (1.33 g) in 95% yield. MS (ESI+) for C8H10F3NO2 m/z 210.1 (M+H)+.

reactant | 3-Methyl-4-piperidone hydrochloride | 6.68 mmol, 1.00 g | Cl.CC1CNCCC1=O
reactant | Pyridine | 16.7 mmol, 1.35 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 8.02 mmol, 1.13 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-trifluoroacetyl-3-methylpiperidin-4-one | 1.33 g, 95% yield | FC(C(=O)N1CC(C(CC1)=O)C)(F)F | C8H10F3NO2
